US07666878B2
90b) (2-Chloro-4-methanesulfonyl-phenyl)-methanol
To a stirred dispersion of 2-chloro-4-methanesulfonyl-benzaldehyde (25 g, 0.11 mol) in absolute ethanol (120 ml) is added sodium borohydride (4.6 g, 0.12 mol) whilst cooling with an ice-bath to maintain room temperature. After stirring at room temperature for 3 hours, the reaction mixture is poured carefully onto ice-water (600 ml) and acidified to pH 1-2 with 1N HCl. The resulting suspension is extracted with ethyl acetate (400 ml) and the organic portions are combined, washed with brine, dried (MgSO4) and concentrated in vacuo. The resulting crude product is dried in a vacuum oven at 40° C. overnight to yield the titled product which is used crude in the next step.

reactant | 2-chloro-4-methanesulfonyl-benzaldehyde | 0.11 mol, 25 g | ClC1=C(C=O)C=CC(=C1)S(=O)(=O)C | C8H7ClO3S
reactant | sodium borohydride | 0.12 mol, 4.6 g | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | (2-Chloro-4-methanesulfonyl-phenyl)-methanol | ClC1=C(C=CC(=C1)S(=O)(=O)C)CO | C8H9ClO3S
